US04113858
E Coupling of Glutamine
To the product of Step (D) above there is added with mixing 4 molar excess of the p-nitrophenyl ester of Boc-L-glutamine [Gln (ONp), Peninsula, supra.] dissolved in 15-20 ml. of dimethylformamide containing 1.5 M urea. The resulting mixture is shaken overnight, filtered, washed with dimethylformamide-ethanol mixture and dried.

reactant | Boc-L-glutamine | C(=O)(OC(C)(C)C)N[C@@H](CCC(N)=O)C(=O)O | C10H18N2O5
solvent | dimethylformamide | 1.5 M | CN(C=O)C | C3H7NO
product | Glutamine | N[C@@H](CCC(N)=O)C(=O)O | C5H10N2O3
